US06211215B1
In substantially the same manner as in Working Example 37, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-(2-benzo[b]thienyl)-4-chloromethyl-5-methyloxazole to give 2-(2-benzo[b]thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyloxazole. The yield was 38%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 142-143° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-(2-benzo[b]thienyl)-4-chloromethyl-5-methyloxazole | S1C2=C(C=C1C=1OC(=C(N1)CCl)C)C=CC=C2 | C13H10ClNOS
product | 2-(2-benzo[b]thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyloxazole | yield was 38% | S1C2=C(C=C1C=1OC(=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1)C)C=CC=C2 | C25H23N3O2S
